US07279467B2
55.1) 2-diazo-5-methylcyclohexane-1,3-dione
12.25 ml (87.2 mmol; 2.2 eq.) of triethylamine and 8.57 g (35.67 mmol; 0.9 eq.) of 4-acetamidobenzenesulphonylazide are added to a solution of 5 g (39.6 mmol) of 5-methylcyclohexane-1,3-dione in 100 ml of dichloromethane. The reaction mixture is stirred for 75 minutes at ambient temperature, then cooled down to 0° C. and filtered on a silica bed. After concentration under reduced pressure, the solution is washed with 3 times 50 ml of water. The organic phases are combined, dried over sodium sulphate and concentrated. The resulting solid is taken up in ethyl ether followed by filtering and drying under reduced pressure. It is used in the following stage without other purification.

reactant | triethylamine | 87.2 mmol, 12.25 ml, 2.2 eq. | C(C)N(CC)CC | C6H15N
reactant | 4-acetamidobenzenesulphonylazide | 35.67 mmol, 8.57 g, 0.9 eq. | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
reactant | 5-methylcyclohexane-1,3-dione | 39.6 mmol, 5 g | CC1CC(CC(C1)=O)=O | C7H10O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-diazo-5-methylcyclohexane-1,3-dione | [N+](=[N-])=C1C(CC(CC1=O)C)=O | C7H8N2O2
